US07820693B2
A solution of n-butyl lithium in THF (1.6 N, 1.59 mL, 2.55 mmol) was added to 10 mL of a solution of diethylene glycol monobenzyl ether (500 mg, 2.55 mmol) in THF at −78° C., and the mixture was stirred for 15 minutes. Then, DL-epichlorohydrin (0.1 mL, 1.28 mmol) was added thereto. The mixture was stirred at room temperature for one hour and under reflux for one hour. Next, the THF solvent was evaporated under reduced pressure, and the residue was stirred at 100° C. without a solvent to complete the reaction. Aqueous saturated ammonium chloride was added to the residue, followed by extraction with ethyl acetate. The extract was washed with saturated saline and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by preparative liquid chromatography (water:acetonitrile=1:1, 0.05% TFA) to obtain 2-[2-(2-benzyloxyethoxy)ethoxy]-1-[2-(2-benzyloxyethoxy)ethoxymethyl]ethanol (129 mg, yield: 23%) as a colorless oil.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diethylene glycol monobenzyl ether | 2.55 mmol, 500 mg | C(C1=CC=CC=C1)OCCOCCO | C11H16O3
reactant | epichlorohydrin | 1.28 mmol, 0.1 mL | C(Cl)C1CO1 | C3H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2.55 mmol, 1.6 N, 1.59 mL | C1CCOC1 | C4H8O
product | 2-[2-(2-benzyloxyethoxy)ethoxy]-1-[2-(2-benzyloxyethoxy)ethoxymethyl]ethanol | 129 mg, yield: 23% | C(C1=CC=CC=C1)OCCOCCOCC(O)COCCOCCOCC1=CC=CC=C1 | C25H36O7
